US07081454B2
1-{4-[2-(4-Iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzimidazol-5-yl]-piperazin-1-yl}-ethanone:
To a solution of 1-[4-(3,4-diamino-5-methyl-phenyl)-piperazin-1-yl]-ethanone (4.00 g, 16.18 mmol) in methanol (100 mL) was added 4-iodo-2-methoxy-pyridine-3-carbaldehyde (4.25 g, 16.18 mmol). The reaction mixture was stirred at room temperature for 14 h. After concentration, the residue was purified by flash column chromatography (10% MeOH/CH2Cl2) to yield the title compound (5.25 g, 66%). 1H NMR (400 MHz, CD3OD) δ 7.81 (1H, d, J=5.4 Hz), 7.48 (1H, d, J=5.4 Hz), 7.26 (1H, s), 6.85 (1H, s), 3.85 (3H, s), 3.78 (2H, t, J=5.0 Hz), 3.64 (2H, t, J=5.0 Hz), 3.16 (2H, t, J=5.2 Hz), 3.11 (2H, t, J=5.2 Hz), 2.62 (3H, s), 2.13 (3H, s). LCMS (M+H)+ m/z 492 (t=1.71 min.).

reactant | 1-[4-(3,4-diamino-5-methyl-phenyl)-piperazin-1-yl]-ethanone | 16.18 mmol, 4.00 g | NC=1C=C(C=C(C1N)C)N1CCN(CC1)C(C)=O | C13H20N4O
reactant | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | 16.18 mmol, 4.25 g | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
solvent | methanol | 100 mL | CO | CH4O
product | 1-{4-[2-(4-Iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzimidazol-5-yl]-piperazin-1-yl}-ethanone | 5.25 g, 66% | IC1=C(C(=NC=C1)OC)C=1NC2=C(N1)C(=CC(=C2)N2CCN(CC2)C(C)=O)C | C20H22IN5O2
